US09302991B2
<Step-3>:(R)-2-methyl-N-(1-(4-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 80% yield (0.95 g, a white solid) from 1-(4-(1,1,2,2-tetrafluoroethoxy)phenyl)ethanone (0.82 g, 3.46 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(1,1,2,2-tetrafluoroethoxy)phenyl)ethanone | 3.46 mmol, 0.82 g | FC(C(F)F)(OC1=CC=C(C=C1)C(C)=O)F | C10H8F4O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(4-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)propane-2-sulfinamide | 80% yield | CC(C)(C)[S@@](=O)NC(C)C1=CC=C(C=C1)OC(C(F)F)(F)F | C14H19F4NO2S
